US05073551
Phosphorus pentachloride (8.12 g, 39 mmol) was added to methylene chloride (70 ml) and cooled to 5° C. It was stirred for 1 hour by addition of pyridine (10.39 g, 130 mmol). p-Methoxybenzyl 7-phenylacetamido-3-[(Z)-2-(1,2,3-thiadiazol-4-yl)vinyl]-3-cephem-4-carboxylate (7.27 g, 13 mmol) was added to this reaction solution and it was stirred at 5° C. for 4 hours. The reaction solution was cooled to -30° C. and stirred for 1 hour by addition of dehydrated methanol (53 ml). The temperature of the reaction solution was returned to -10° C. and it was stirred for 10 minutes by addition of water (10 ml). Saturated sodium bicarbonate was added to the reaction solution to adjust to pH 4, and then the solvent was distilled off under reduced pressure. The residue was extracted with ethyl acetate, then washed with water and dried over magnesium sulfate. The solvent was distilled off and the residue was purified by column chromatography thereby p-methoxybenzyl 7-amino-3-[(Z)-2-(1,2,3-thiadiazol-4-yl)vinyl]-3-cephem-4-carboxylate (3.9 g, 70% yield) was obtained as a light yellow powder substance.

reactant | Phosphorus pentachloride | 39 mmol, 8.12 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | pyridine | 130 mmol, 10.39 g | N1=CC=CC=C1 | C5H5N
reactant | p-Methoxybenzyl 7-phenylacetamido-3-[(Z)-2-(1,2,3-thiadiazol-4-yl)vinyl]-3-cephem-4-carboxylate | 13 mmol, 7.27 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/C=2N=NSC2)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C27H24N4O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 10 ml | O | H2O
solvent | methanol | 53 ml | CO | CH4O
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | p-methoxybenzyl 7-amino-3-[(Z)-2-(1,2,3-thiadiazol-4-yl)vinyl]-3-cephem-4-carboxylate | 3.9 g, 70% yield | NC1[C@@H]2N(C(=C(CS2)\C=C/C=2N=NSC2)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C19H18N4O4S2
